US04364921
(b) 5-Methoxyacetylamino-2,4,6-triiodoisophthalic Acid (2,3-Dihydroxypropyl)amide Chloride
50 g. (75 mmol) of 5-methoxyacetylamino-2,4,6-triiodoisophthalic acid dichloride is dissolved in 200 ml. of dry DMF; 18 g. (97.3 mmol) of tributylamine is added thereto, the mixture is heated to 60° C., and, at this temperature, a solution of 7.5 g. (82.4 mmol) of 2,3-dihydroxypropylamine in 50 ml. of DMF is added dropwise thereto. The mixture is stirred for 2 hours at 60° C., then concentrated to 100 ml., and stirred into 1.2 l. of methylene chloride. The precipitate thus formed is vacuum-filtered, dried, refluxed twice with respectively 500 ml. of ethyl acetate, and filtered in the hot state. The evaporated filtrate yields 40.5 g. (56 mmol)=74.5% of theory of the desired product as a colorless solid.

reactant | 5-methoxyacetylamino-2,4,6-triiodoisophthalic acid dichloride | 75 mmol | COCC(=O)NC=1C(=C(C(=C(C(=O)Cl)C1I)I)C(=O)Cl)I | C11H6Cl2I3NO4
reactant | tributylamine | 97.3 mmol | C(CCC)N(CCCC)CCCC | C12H27N
reactant | 2,3-dihydroxypropylamine | 82.4 mmol | OC(CN)CO | C3H9NO2
reactant | DMF | CN(C)C=O | C3H7NO
product | 5-Methoxyacetylamino-2,4,6-triiodoisophthalic Acid (2,3-Dihydroxypropyl)amide Chloride | [Cl-].OC(CNC(C1=C(C(C(=O)O)=C(C(=C1I)NC(COC)=O)I)I)=O)CO | InChI=1S/C14H15I3N2O7.ClH/c1-26-4-6(22)19-12-10(16)7(13(23)18-2-5(21)3-20)9(15)8(11(12)17)14(24)25;/h5,20-21H,2-4H2,1H3,(H,18,23)(H,19,22)(H,24,25);1H/p-1
